US05134139
A mixture of (+)-cis-2-(4-methoxyphenyl)-3-(ethoxycarbonylmethyl)oxy-5-{2-[N-methyl-N-(4-methoxyphenethyl)amino]ethyl}-2,3-dihydro-1,5-benzothiazepin-4(5H)-one (5.4 g), sodium hydroxide (423 mg), water (50 ml) and methanol (50 ml) is stirred at room temperature overnight. The reaction mixture is concentrated under reduced pressure, and water is added to the resulting residue. The mixture is washed with ether, and the pH value thereof is adjusted to 4 with 10% hydrochloric acid, and then extracted with a mixture of chloroform and isopropyl alcohol. The extract is washed, dried, and the solvent is distilled off to give (+)-cis- 2-(4-methoxyphenyl)-3-(carboxymethyl)oxy-5-{2-[N-methyl-N-(4-methoxyphenethyl)amino]ethyl}-2,3-dihydro-1,5-benzothiazepin-4-(5H)-one (4.57 g) as oily product.

reactant | (+)-cis-2-(4-methoxyphenyl)-3-(ethoxycarbonylmethyl)oxy-5-{2-[N-methyl-N-(4-methoxyphenethyl)amino]ethyl}-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 5.4 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1OCC(=O)OCC)=O)CCN(CCC1=CC=C(C=C1)OC)C)C=CC=C2 | C32H38N2O6S
reactant | sodium hydroxide | 423 mg | [OH-].[Na+]
reactant | water | 50 ml | O | H2O
solvent | methanol | 50 ml | CO | CH4O
product | (+)-cis- 2-(4-methoxyphenyl)-3-(carboxymethyl)oxy-5-{2-[N-methyl-N-(4-methoxyphenethyl)amino]ethyl}-2,3-dihydro-1,5-benzothiazepin-4-(5H)-one | 4.57 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1OCC(=O)O)=O)CCN(CCC1=CC=C(C=C1)OC)C)C=CC=C2 | C30H34N2O6S
